US04851446
(b) 3-(4-guanidinophenyl)propionic acid
3.70 g (19.14 mmol) of the oily methyl ester of 3-(4-aminomethylphenyl)propionic acid was dissolved in 150 ml of tetrahydrofuran. To the solution were added 5.80 g (28.71 mmol) of 1-amidino-3,5-dimethylpyrazole nitrate and 4.70 g (36.37 mmol) of N,N-diisopropylethylamine, and the mixture was heated overnight under reflux. The reaction mixture was concentrated under vacuum to give an oil. This oil was reacted with 70 ml of 5% HCl for 3 hours under reflux. The reaction mixture was passed through a filter and the filtrate was ice-cooled. The pH of the filtrate was adjusted to 6.4 by addition of 10% aqueous NaOH. The so adjusted filtrate was stirred for 30 minutes under ice-cooling. The precipitating crystal was recovered by filtration and washed successively with distilled water and tetrahydrofuran. Upon drying, 2.85 g of a pale yellow crystal was obtained (yield: 67.4%). m.p.≥300° C.

reactant | 3-(4-aminomethylphenyl)propionic acid | NCC1=CC=C(C=C1)CCC(=O)O | C10H13NO2
reactant | 1-amidino-3,5-dimethylpyrazole nitrate | 28.71 mmol, 5.80 g | [N+](=O)(O)[O-].C(N)(=N)N1N=C(C=C1C)C
reactant | N,N-diisopropylethylamine | 36.37 mmol, 4.70 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 70 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-(4-guanidinophenyl)propionic acid | 2.85 g, yield: 67.4% | N(C(=N)N)C1=CC=C(C=C1)CCC(=O)O | C10H13N3O2
